US05688792
Step 3: N-carbobenzyloxy-3-fluoro-4-morpholinyl aniline
To a solution of 28.91 g of 3-fluoro-4-morpholinyl-aniline and 27.88 g of sodium bicarbonate in 500 mL of acetone and 250 mL of water at 0° C. was added 28.68 g of benzyl chloroformate. After stirring the mixture for 1.5 hours, the mixture was poured onto 1000 cc of ice and water, and the ice allowed to melt. The precipitated solid was collected by filtration and washed with 3×250 ml of water, and then dried in a vacuum oven at 75° C. to give a gray-purple solid. This was recrystallized from acetone-water to give a cream-colored solid, mp=123°-124° C.

reactant | 3-fluoro-4-morpholinyl-aniline | 28.91 g | FC=1C=C(N)C=CC1N1CCOCC1 | C10H13FN2O
reactant | sodium bicarbonate | 27.88 g | C([O-])(O)=O.[Na+]
reactant | benzyl chloroformate | 28.68 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | acetone | 500 mL | CC(=O)C | C3H6O
solvent | water | 250 mL | O | H2O
product | N-carbobenzyloxy-3-fluoro-4-morpholinyl aniline | C(=O)(OCC1=CC=CC=C1)NC1=CC(=C(C=C1)N1CCOCC1)F | C18H19FN2O3
